US06242635B1
Synthesis of 2-hydroxymethyl-3-phenylpropionic acid
2-Benzylidene-3-hydroxypropionic acid (490.4 mg, 2.752 mmols) was dissolved in 7 ml of methanol, and 0.5 ml of 28% aqueous ammonia and 2 ml of water were added thereto. Then, 38 mg (water content 52.7%) of 5% palladium-carbon were added thereto, and catalytic reduction was conducted in a hydrogen atmosphere for 160 minutes. After the completion of the reaction, the reaction solution was filtered with Celite to remove the palladium-carbon. The resulting filtrate was subjected to the HPLC analysis. As a result, the filtrate contained 461 mg (2.558 mmols) of the above title compound (yield 93.0%).

reactant | 2-Benzylidene-3-hydroxypropionic acid | 2.752 mmols, 490.4 mg | C(C1=CC=CC=C1)=C(C(=O)O)CO | C10H10O3
reactant | ammonia | 0.5 ml | N | H3N
reactant | water | 2 ml | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 7 ml | CO | CH4O
catalyst | palladium-carbon | 38 mg | [C].[Pd]
product | 2-hydroxymethyl-3-phenylpropionic acid | 2.558 mmols, 461 mg, yield 93.0% | OCC(C(=O)O)CC1=CC=CC=C1 | C10H12O3
